### PR TITLE
[lambda] The "congruence" of subterm properties w.r.t different excluded lists

### PR DESCRIPTION
**Pull request by binghe**
Hi,

given a solvable term, the concept of "subterm", along a path of numbers, is the specified (by the path) children term of the principle hnf converted from the original term, so on until the last path element:
```
subterm_def
⊢ (∀X M. subterm X M [] = SOME (X,M)) ∧
  ∀X M x xs.
    subterm X M (x::xs) =
    if solvable M then
      (let
         M0 = principle_hnf M;
         n = LAMl_size M0;
         m = hnf_children_size M0;
         vs = FRESH_list n (X ∪ FV M0);
         M1 = principle_hnf (M0 ·· MAP VAR vs);
         Ms = hnf_children M1
       in
         if x < m then subterm (X ∪ set vs) (EL x Ms) xs else NONE)
    else NONE
```
Due to alpha-conversion, the returned subterm may contain some fresh variables generated according to an "excluded list" given as input parameter. The definition guarantees (see the part `vs = FRESH_list n (X ∪ FV M0)`) that whatever `X` (the excluded list) will give the "correct" result, in the sense that the principle hnf of `M0 ·· MAP VAR vs` is indeed the inner body of `M0` without variable captures (because `vs` is fresh, disjoint with `FV M0`).

In general, `FRESH_list` (or `NEW_TAC`) is like a blackbox: nothing can be said between `FRESH_list n X` and `FRESH_list n Y` except for their size of lists are the same. Therefore, in many related proofs, properties about `subterm X M p` cannot be directly used if `subterm Y M p` is to be discussed, even `X` and `Y` themselves have some relationships.

Here I proved a hard result saying that, for any `X` and `Y`, the actual term returned by `subterm X M p` and `subterm Y M p` differ only by a "term permutation" (`tpm`), or they are both `NONE` (either both unsolvable or the path itself is invalid, accessing out bound of the hnf children lists):
```
subterm_tpm_cong
⊢ ∀p X Y M.
    FINITE X ∧ FINITE Y ⇒
    (subterm X M p = NONE ⇔ subterm Y M p = NONE) ∧
    (subterm X M p ≠ NONE ⇒ ∃pi. tpm pi (subterm' X M p) = subterm' Y M p)
```
Actually the above theorem cannot be directly proved, without first generalizing to the following lemma involving `tpm`:
```
subterm_tpm_lemma
⊢ ∀p X Y M pi.
    FINITE X ∧ FINITE Y ⇒
    (subterm X M p = NONE ⇒ subterm Y (tpm pi M) p = NONE) ∧
    (subterm X M p ≠ NONE ⇒
     ∃pi'. tpm pi' (subterm' X M p) = subterm' Y (tpm pi M) p)
```
Here, it's interesting to see (if taking both X and Y as X) that `subterm' X (tpm pi M) p` is not `tpm pi (subterm' X p)` but with another different permutation list. This is because, although all free variables in M are permuted by `pi`, the fresh binding list is completely different, and therefore `subterm' X (tpm pi M) p` actually contains two permutations: one is the `pi` from `tpm pi M`, the other is `ZIP (vs,vs')` where `vs` and `vs'` are the two internal fresh lists generated for `M` and `tpm pi M`.  To prove the above lemma, a lot of new small theorems about `tpm` of existing concepts are added.

Once the above results are obtained, all functions built upon this concept of "subterms" but only returning some numbers, can be proved to be independent with the input excluded list, e.g. the number of hnf children:
```
subterm_hnf_children_size_cong
⊢ ∀X Y M p.
    FINITE X ∧ FINITE Y ∧ subterm X M p ≠ NONE ∧ solvable (subterm' X M p) ⇒
    hnf_children_size (principle_hnf (subterm' X M p)) =
    hnf_children_size (principle_hnf (subterm' Y M p))
```

Another more interesting application is the following concept of "subterm (tree) width", i.e. the maximal number of hnf children along the given path `p`:
```
subterm_width_def
⊢ ∀M p.
    subterm_width M p =
    (let
       Ms = {subterm' ∅ M p' | p' ≼ FRONT p}
     in
       MAX_SET (IMAGE (hnf_children_size ∘ principle_hnf) Ms))
```
Note that, when defining `subterm_width`, the empty set `{}` has been used to with `subterm`. But then we can prove that this width is independent with this excluded list (actually a set, same for all above places), i.e. this number is the same for all possible `X` used in place of `subterm X ...`:
```
subterm_width_thm
⊢ ∀X M p p'.
    FINITE X ∧ p ≠ [] ∧ p ∈ ltree_paths (BTe X M) ∧ subterm X M p ≠ NONE ∧
    p' ≼ FRONT p ⇒
    hnf_children_size (principle_hnf (subterm' X M p')) ≤ subterm_width M p
```

P. S. There are other related minor additions in core theories (`rich_list` and `ltree`) in this PR.

Chun

### CODE REVIEW

File: src/list/src/rich_listScript.sml [hunk 1]
```diff
@@ -1178,6 +1178,17 @@ val TAKE_SNOC = Q.store_thm ("TAKE_SNOC",
    THEN RES_TAC
    THEN ASM_REWRITE_TAC []);
 
+Theorem TAKE_FRONT :
+    !l n. l <> [] /\ n <= PRE (LENGTH l) ==> TAKE n (FRONT l) = TAKE n l
```
Comment (mn200) [inline src/list/src/rich_listScript.sml:1182]: Rather than `n <= PRE ...`, please use `n < ...`.

File: examples/lambda/barendregt/solvableScript.sml [hunk 2]
```diff
@@ -626,6 +626,23 @@ Proof
...
 QED
 
+Theorem solvable_tpm_I[local] :
+    !pi M. solvable M ==> solvable (tpm pi M)
+Proof
+    rw [solvable_iff_has_hnf, has_hnf_thm]
+ >> Q.EXISTS_TAC ‘tpm pi N’ >> rw []
+QED
+
+Theorem solvable_tpm :
```
Comment (mn200) [inline examples/lambda/barendregt/solvableScript.sml:636]: Looks like it should be a `[simp]`.

File: src/list/src/rich_listScript.sml (hunk 1 above)
Comment (binghe) [reply src/list/src/rich_listScript.sml]: Yes, somehow I overlooked the obvious fact that `n <= PRE (LENGTH l) <=> n < LENGTH l`...

**Comment by mn200** [comment]
Awesome; thanks!
